US05889050
(R,R)-N-Acetyl-N'-(2,2-dimethylpropionyl)-3,3'-dithiobis(2-aminopropionic acid)
The compound was obtained following the procedure given in Example 18, starting from N-acetyl-L-cysteine and N-pivaloyl-L-cysteine.

reactant | N-acetyl-L-cysteine | C(C)(=O)N[C@@H](CS)C(=O)O | C5H9NO3S
reactant | N-pivaloyl-L-cysteine | C(C(C)(C)C)(=O)N[C@@H](CS)C(=O)O | C8H15NO3S
product | (R,R)-N-Acetyl-N'-(2,2-dimethylpropionyl)-3,3'-dithiobis(2-aminopropionic acid) | C(C)(=O)N[C@H](C(=O)O)CSSC[C@@H](C(=O)O)NC(C(C)(C)C)=O | C13H22N2O6S2
